US07569536B2
4-Methoxybenzoyl chloride (250 mg, 1.47 mmol, commercially available product) and triethylamine (254 μl, 1.83 mmol) were sequentially added at 0° C. to a dichloromethane (4 ml) solution of 2-(1-piperidinyl)-5-(trifluoromethyl)aniline (147 mg, 0.602 mmol), obtained as described in Referential Example 1-2. The resulting mixture was warmed to room temperature and stirred for 17 hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20 g, hexane/ethyl acetate=5/1). Thus, N-[2-(1-piperidinyl)-5-(trifluoromethyl)phenyl]-4-methoxybenzamide (GIF-0615) (240 mg, quant.) was yielded as a colorless solid.

reactant | 4-Methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | triethylamine | 1.83 mmol, 254 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 4 ml | ClCCl | CH2Cl2
reactant | 2-(1-piperidinyl)-5-(trifluoromethyl)aniline | 0.602 mmol, 147 mg | N1(CCCCC1)C1=C(N)C=C(C=C1)C(F)(F)F | C12H15F3N2
solvent | Water | O | H2O
product | N-[2-(1-piperidinyl)-5-(trifluoromethyl)phenyl]-4-methoxybenzamide | 240 mg | N1(CCCCC1)C1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=C(C=C1)OC)=O | C20H21F3N2O2
